US07399774B2
Add NaH (60%/oil, 196 mg, 4.91 mmol) to a mixture of 5-hydroxy-3,3-dimethyl-1-indanone (787 mg, 4.46 mmol) and DMSO (10 ml) stirring at ambient temperature under nitrogen. After ten minutes, add 6-chloronicotinonitrile (619 mg, 4.46 mmol) dissolved in DMSO (10 ml) and stir the resulting mixture at 60° C. overnight. Quench the reaction with saturated aqueous NH4Cl and extract with EtOAc (2×). Wash extract with water and brine, dry (MgSO4) and concentrate on rotary evaporator to a brown, oily solid. Purify on silica gel (10% EtOAc/DCM) to give 877 mg of 6-(3,3-Dimethyl-1-oxo-indan-5-yloxy)-nicotinonitrile as a yellow solid.

reactant | NaH | 4.91 mmol, 196 mg | [H-].[Na+]
reactant | 5-hydroxy-3,3-dimethyl-1-indanone | 4.46 mmol, 787 mg | OC=1C=C2C(CC(C2=CC1)=O)(C)C | C11H12O2
reactant | 6-chloronicotinonitrile | 4.46 mmol, 619 mg | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | 6-(3,3-Dimethyl-1-oxo-indan-5-yloxy)-nicotinonitrile | 877 mg | CC1(CC(C2=CC=C(C=C12)OC1=NC=C(C#N)C=C1)=O)C | C17H14N2O2
